US08791132B2
A mixture of 4-bromo-benzenesulfonamide (200 mg, 0.84 mmol), 9-ethynyl-2,6-dimethyl-2,3,4,9-tetrahydro-1H-β-carboline (228 mg, 1.01 mmol), TBAF.3H2O (801 mg, 2.54 mmol) and dichloro bis(triphenylphosphine) palladium(II) (30 mg, 0.042 mmol) was stirred at 85° C. for 10 min. The reaction mixture was poured into water and extracted with EtOAc (3×25 mL). The organic layer was washed with water (3×30 mL), dried over anhydrous sodium sulfate and evaporated to afford crude material, which was purified by reverse phase HPLC to yield 4-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-ylethynyl)-benzenesulfonamide. 1H NMR (CDCl3, freebase) δ (ppm): 7.9 (d, 2H), 7.6 (d, 2H), 7.4 (d, 1H), 7.3 (s, 1H), 7.1 (d, 1H), 3.78 (s, 2H), 2.82 (t, 2H), 2.79 (t, 2H), 2.6 (s, 3H), 2.42 (s, 3H).

reactant | 4-bromo-benzenesulfonamide | 0.84 mmol, 200 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
reactant | 9-ethynyl-2,6-dimethyl-2,3,4,9-tetrahydro-1H-β-carboline | 1.01 mmol, 228 mg | C(#C)N1C2=CC=C(C=C2C=2CCN(CC12)C)C | C15H16N2
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
catalyst | dichloro bis(triphenylphosphine) palladium(II) | 0.042 mmol, 30 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | O | H2O
product | 4-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-ylethynyl)-benzenesulfonamide | CN1CC=2N(C3=CC=C(C=C3C2CC1)C)C#CC1=CC=C(C=C1)S(=O)(=O)N | C21H21N3O2S
